US06255323B1
In a reaction flask under nitrogen with magnetic stirring 1-cyano-2-methyl-3-pyridin-4-yl-isothiourea (0.35 g, 1.82 mmol) and 4-aminobenzylamine (0.25 g 2.05 mmol) were suspended in ethanol (1.5 mL). Triethylamine (0.19 g, 1.36 mmol) was added followed by (4-dimethylamino)pyridine (6 mg, 0.05 mmol). This reaction mixture was heated at 60° C. for 4 hours then cooled to room temperature. The resulting solid was collected by filtration and washed with cold ethanol (10 mL) to give N-(4-amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine as a white solid in 77% yield. 1H NMR (DMSO-d6, ppm): 9.43 (s, 1H), 8.38 (d, 2H), 8.14 (s, 1H), 7.19 (d, 2H), 7.00 (d, 2H), 6.54 (d, 2H), 5.07 (s, 2H), 4.03 (d, 2H) ESMS 289.0 (M+23).

reactant | 1-cyano-2-methyl-3-pyridin-4-yl-isothiourea | 1.82 mmol, 0.35 g | C(#N)NC(SC)=NC1=CC=NC=C1 | C8H8N4S
reactant | 4-aminobenzylamine | 2.05 mmol, 0.25 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | Triethylamine | 1.36 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | N-(4-amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine | 77% yield | NC1=CC=C(CNC(=NC2=C3C=CC=NC3=CC=C2)NC#N)C=C1 | C18H16N6
